### PR TITLE
feat: Hoeffding's lemma

### PR DESCRIPTION
**Pull request by tukamilano**
Formalize Hoeffding's lemma using the property of cumulant.

Co-authored-by: Yuma Mizuno [mizuno.y.aj@gmail.com](mailto:mizuno.y.aj@gmail.com)

---

- [x] depends on: #20151

### CODE REVIEW

File: Mathlib/Probability/Hoeffding.lean [hunk 1]
```diff
@@ -0,0 +1,561 @@
...
+  _ = (∫ ω, ((∂Measure.tilted μ fun ω ↦ t * X ω/∂μ) ω).toReal • f (X ω) ∂μ) :=
+    Eq.symm (MeasureTheory.integral_rnDeriv_smul (tilted_absolutelyContinuous μ fun ω ↦ t * X ω))
+  _ = ∫ ω, (rexp (t * X ω) / μ[fun ω ↦ rexp (t * X ω)]) * f (X ω) ∂μ := by
+    apply integral_congr_ae
+    have w : (μ.tilted fun ω ↦ t * X ω).rnDeriv μ =ᵐ[μ]
+      fun ω ↦ ENNReal.ofReal (Real.exp (t * X ω) / ∫ ω, Real.exp (t * X ω) ∂μ) := by
+        apply MeasureTheory.rnDeriv_tilted_left_self
+        apply AEMeasurable.const_mul _ t
+        exact hX
+    filter_upwards [w] with ω w
```
Comment (yuma-mizuno) [inline Mathlib/Probability/Hoeffding.lean:306]:
```suggestion
    filter_upwards [rnDeriv_tilted_left_self (hX.const_mul t)] with ω w
```

File: Mathlib/Probability/Hoeffding.lean [hunk 2]
```diff
@@ -0,0 +1,556 @@
...
+  It can be described by exponential tilting.
+* `ProbabilityTheory.cum_deriv_two`: second derivative of cumulant `log μ[rexp (t * X ω))]`.
+* `ProbabilityTheory.hoeffding`: Hoeffding's Lemma states that for a random variable `X` with
+  `E[X] = 0` (zero mean) and `a ≤ X ≤ b` almost surely, the inequality
+  `μ[exp (t * (X ω))] ≤ exp (t^2 * (b - a)^2 / 8)` holds almost surely for all `t ∈ ℝ`.
+
+## References
+
+* Martin J. Wainwright. High-Dimensional Statistics. Cambridge university press, 2019. Chapter 2
+* Mehryar Mohri. Foundations of Machine Learning. The MIT Press, 2018. Chapter D
```
Comment (RemyDegenne) [inline Mathlib/Probability/Hoeffding.lean:35]: See https://leanprover-community.github.io/contribute/doc.html#citing-other-works for how to properly cite other works in Mathlib.

File: Mathlib/Probability/Hoeffding.lean [hunk 3]
```diff
@@ -0,0 +1,556 @@
...
+
+## Tags
+
+hoeffding's lemma, cumulant
```
Comment (RemyDegenne) [inline Mathlib/Probability/Hoeffding.lean:39]:
```suggestion
Hoeffding's lemma, cumulant
```

File: Mathlib/Probability/Hoeffding.lean [hunk 4]
```diff
@@ -0,0 +1,556 @@
...
+      simp only [ENNReal.coe_le_coe]
+      rw [← (by simp only [coe_nnnorm, norm_eq_abs, abs_exp] : ‖rexp (t * b)‖₊ = rexp (t * b))] at p
+      exact p
+    suffices ∫⁻ _, ↑‖rexp (t * b)‖₊ ∂μ < ⊤ from lt_of_le_of_lt p'' this
+    simp only [lintegral_const]
+    apply ENNReal.mul_lt_top ENNReal.coe_lt_top (IsFiniteMeasure.measure_univ_lt_top)
+  exact ⟨aestronglyMeasurable_iff_aemeasurable.mpr <|
+    measurable_exp.comp_aemeasurable' (hX.const_mul t), hm1⟩
+
+lemma integrable_expt_bound[IsFiniteMeasure μ] {X : Ω → ℝ} {t a b : ℝ} (hX : AEMeasurable X μ)
```
Comment (RemyDegenne) [inline Mathlib/Probability/Hoeffding.lean:77]:
```suggestion
lemma integrable_expt_bound [IsFiniteMeasure μ] {X : Ω → ℝ} {t a b : ℝ} (hX : AEMeasurable X μ)
```

File: Mathlib/Probability/Hoeffding.lean [hunk 5]
```diff
@@ -0,0 +1,556 @@
...
+  | inr ht => cases ht with
+    | inr ht => exact integrable_expt μ X t b ht hX (h.mono fun ω h ↦ h.2)
+    | inl ht => rw [ht]; simp only [zero_mul, exp_zero, integrable_const]
+  | inl ht =>
+    rw [(by ext ω; rw [(by ring : - t * (- X ω) = t * X ω)] :
+      (fun ω ↦ rexp (t * X ω)) = (fun ω ↦ rexp (- t * (- X ω))))]
+    exact integrable_expt _ _ _ _ (by linarith : -t > 0) (AEMeasurable.neg hX)
+      (by filter_upwards [ha] with ω ha using neg_le_neg ha)
+
+lemma expt_pos [IsFiniteMeasure μ] [NeZero μ] (X : Ω → ℝ) (t a b : ℝ)
```
Comment (RemyDegenne) [inline Mathlib/Probability/Hoeffding.lean:91]: We already have [ProbabilityTheory.mgf_pos'](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Probability/Moments.html#ProbabilityTheory.mgf_pos')

File: Mathlib/Probability/Hoeffding.lean [hunk 6]
```diff
@@ -0,0 +1,556 @@
...
+      ((tilted_absolutelyContinuous μ fun ω ↦ t * X ω) h)
+      (AEMeasurable.mono_ac hX (tilted_absolutelyContinuous μ fun ω ↦ t * X ω))
+
+theorem integrable_bounded [IsFiniteMeasure μ] (a b : ℝ)
+    (X : Ω → ℝ) (hX : AEMeasurable X μ) (h : ∀ᵐ ω ∂μ, X ω ∈ Set.Icc a b) :
+    Integrable X μ := by
+  have m1 : HasFiniteIntegral X μ := by
+    apply (hasFiniteIntegral_const (max ‖a‖ ‖b‖)).mono'
+    filter_upwards [h.mono fun ω h ↦ h.1, h.mono fun ω h ↦ h.2] with ω using abs_le_max_abs_abs
+  exact ⟨aestronglyMeasurable_iff_aemeasurable.mpr hX, m1⟩
```
Comment (RemyDegenne) [inline Mathlib/Probability/Hoeffding.lean:112]: You already proved [MeasureTheory.memℒp_of_bounded](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Function/LpSeminorm/Basic.html#MeasureTheory.mem%E2%84%92p_of_bounded) so you could use first [MeasureTheory.memℒp_one_iff_integrable](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Function/L1Space.html#MeasureTheory.mem%E2%84%92p_one_iff_integrable) and then the Lp result.

**Review by RemyDegenne — COMMENTED** [review]
Thanks for the PR!
It will require some changes because apparently you missed that we have definitions for the moment and cumulant generating functions. See [ProbabilityTheory.mgf](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Probability/Moments.html#ProbabilityTheory.mgf).
You should use those definitions, and move their properties to the Moments file.

File: Mathlib/Probability/Hoeffding.lean [hunk 7]
```diff
@@ -0,0 +1,556 @@
...
+  set g' := fun t ↦ μ[fun ω ↦ rexp (t * X ω) * X ω]
+  dsimp [f']
+  have r0 : ((μ.tilted (fun ω ↦ t * X ω)) [fun ω ↦ id (X ω)]) =
+    μ[fun ω ↦ rexp (t * X ω) * id (X ω)] / μ[fun ω ↦ rexp (t * X ω)] :=
+    integral_tilted μ t id X hX
+  simp at r0
+  rw [r0]
+  apply HasDerivAt.log
+    (tilt_first_deriv μ _ _ _ _ hX h (integrable_deriv_expt μ t a b X hX h))
+    (Ne.symm (ne_of_lt (mgf_pos' (Ne.symm (NeZero.ne' μ)) (integrable_expt_bound μ hX h))))
```
Comment (RemyDegenne) [inline Mathlib/Probability/Hoeffding.lean:337]:
```suggestion
    (Ne.symm (ne_of_lt (mgf_pos' (NeZero.ne μ) (integrable_expt_bound μ hX h))))
```

Comment (YaelDillies) [reply Mathlib/Probability/Hoeffding.lean:337]:
```suggestion
    (mgf_pos' (Ne.symm (NeZero.ne μ)) (integrable_expt_bound μ hX h)).ne'
```
even

**Comment by tukamilano** [comment]
> Thanks for the PR! It will require some changes because apparently you missed that we have definitions for the moment and cumulant generating functions. See [ProbabilityTheory.mgf](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Probability/Moments.html#ProbabilityTheory.mgf). You should use those definitions, and move their properties to the Moments file.

I got it. I'll move the lemmas about the first and derivatives of mgf and cgf to Probability/Moments file.

File: Mathlib/Probability/Moments.lean [hunk 8]
```diff
@@ -333,4 +344,363 @@ theorem measure_le_le_exp_cgf [IsFiniteMeasure μ] (ε : ℝ) (ht : t ≤ 0)
...
 
+section GeneratingFunctionDerivatives
+
+lemma aemeasurable_expt (X : Ω → ℝ) (t : ℝ) (hX : AEMeasurable X μ) :
+    AEStronglyMeasurable (fun ω ↦ rexp (t * (X ω))) μ :=
+  aestronglyMeasurable_iff_aemeasurable.mpr <| measurable_exp.comp_aemeasurable' (hX.const_mul t)
+
+lemma integrable_expt [IsFiniteMeasure μ] (X : Ω → ℝ) (t b : ℝ) (ht : t > 0)
+    (hX : AEMeasurable X μ) (hb : ∀ᵐ ω ∂μ, X ω ≤ b) :
+    Integrable (fun ω ↦ exp (t * (X ω))) μ := by
```
Comment (RemyDegenne) [inline Mathlib/Probability/Moments.lean:355]: You could have a much shorter proof: this is a bounded function, hence integrable.

File: Mathlib/Probability/Moments.lean [hunk 9]
```diff
@@ -333,4 +344,363 @@ theorem measure_le_le_exp_cgf [IsFiniteMeasure μ] (ε : ℝ) (ht : t ≤ 0)
...
+  apply memℒp_of_bounded h (aestronglyMeasurable_iff_aemeasurable.mpr hX)
+
+/-- Derivation of `mgf X μ t` is `μ[exp (t * X ω) * X ω]`.
+In order to deal with the differentiation of parametric integrals,
+`hasDerivAt_integral_of_dominated_loc_of_deriv_le` are used in the proof. -/
+theorem tilt_first_deriv [IsFiniteMeasure μ] (t a b : ℝ)
+    (X : Ω → ℝ) (hX : AEMeasurable X μ) (h : ∀ᵐ ω ∂μ, X ω ∈ Set.Icc a b):
+    let g := fun t ↦ mgf X μ t
+    let g' := fun t ↦ μ[fun ω ↦ rexp (t * X ω) * X ω]
+    Integrable (fun ω ↦ rexp (t * X ω) * X ω) μ → HasDerivAt g (g' t) t := by
```
Comment (RemyDegenne) [inline Mathlib/Probability/Moments.lean:413]: That result should hold more generally than for bounded random variables. Can you generalize it?
Is `h` used only to get integrability properties, or in a more essential way?

File: Mathlib/Probability/Moments.lean [hunk 10]
```diff
@@ -333,4 +344,363 @@ theorem measure_le_le_exp_cgf [IsFiniteMeasure μ] (ε : ℝ) (ht : t ≤ 0)
...
+  have ha : ∀ᵐ ω ∂μ, a ≤ X ω := h.mono fun ω h ↦ h.1
+  have hb : ∀ᵐ ω ∂μ, X ω ≤ b := h.mono fun ω h ↦ h.2
+  set c := max ‖a‖ ‖b‖
+  set e := (fun t ↦ fun ω ↦ rexp (t * X ω))
+  set e' := (fun t ↦ fun ω ↦ rexp (t * X ω) * X ω)
+  suffices MeasureTheory.Integrable (e' t) μ ∧
+    HasDerivAt (fun t ↦ μ[e t]) (μ[e' t]) t from by
```
Comment (RemyDegenne) [inline Mathlib/Probability/Moments.lean:420]: If I understand correctly, your goal before that `suffices` has the shape `Integrable ... → HasDerivAt ...` and you replace that implication by `Integrable ... ∧ HasDerivAt ...` for the same functions. That's just making the goal harder, so I don't understand why you do that. Am I missing something?

File: Mathlib/Probability/Moments.lean [hunk 11]
```diff
@@ -333,4 +344,363 @@ theorem measure_le_le_exp_cgf [IsFiniteMeasure μ] (ε : ℝ) (ht : t ≤ 0)
...
+    let g := fun t ↦ μ[fun ω ↦ rexp (t * X ω) * X ω]
+    let g' := fun t ↦ μ[fun ω ↦ rexp (t * X ω) * X ω ^ 2]
+    Integrable (fun ω ↦ rexp (t * X ω) * (X ω ^ 2)) μ → HasDerivAt g (g' t) t := by
+  have ha : ∀ᵐ ω ∂μ, a ≤ X ω := h.mono fun ω h ↦ h.1
+  have hb : ∀ᵐ ω ∂μ, X ω ≤ b := h.mono fun ω h ↦ h.2
+  set c := max ‖a‖ ‖b‖
+  set e := (fun t ↦ fun ω ↦ rexp (t * X ω) * X ω)
+  set e' := (fun t ↦ fun ω ↦ rexp (t * X ω) * (X ω ^ 2))
+  suffices MeasureTheory.Integrable (e' t) μ ∧
+    HasDerivAt (fun t ↦ μ[e t]) (μ[e' t]) t from by
```
Comment (RemyDegenne) [inline Mathlib/Probability/Moments.lean:481]: Same remark as for the `suffices` in the lemma above.

File: Mathlib/Probability/Moments.lean [hunk 12]
```diff
@@ -333,4 +344,363 @@ theorem measure_le_le_exp_cgf [IsFiniteMeasure μ] (ε : ℝ) (ht : t ≤ 0)
...
+      calc
+      _ ≤ |t * X ω| := le_abs_self (t * X ω)
+      _ = |t| * |X ω| := abs_mul t (X ω)
+      _ ≤ |t| * |c| :=
+        mul_le_mul_of_nonneg_left (le_trans' (le_abs_self (max ‖a‖ ‖b‖))
+          (abs_le_max_abs_abs ha hb) : |X ω| ≤ |c|) (abs_nonneg t)
+    exact q0
+
+theorem integral_tilted [IsFiniteMeasure μ]
+    (t : ℝ) (f : ℝ → ℝ) (X : Ω → ℝ) (hX : AEMeasurable X μ):
```
Comment (RemyDegenne) [inline Mathlib/Probability/Moments.lean:586]:
```suggestion
    (t : ℝ) (f : ℝ → ℝ) {X : Ω → ℝ} (hX : AEMeasurable X μ) :
```

File: Mathlib/Probability/Moments.lean [hunk 13]
```diff
@@ -333,4 +344,363 @@ theorem measure_le_le_exp_cgf [IsFiniteMeasure μ] (ε : ℝ) (ht : t ≤ 0)
...
+      apply integral_nonneg
+      apply Pi.le_def.mpr _
+      intro i
+      simp only [Pi.zero_apply]
+      exact exp_nonneg (t * X i)
+    exact div_nonneg (exp_nonneg (t * X ω)) q2
+  _ = (∫ ω, (rexp (t * X ω) * f (X ω)) / (μ[fun ω ↦ rexp (t * X ω)]) ∂μ) := by
+    apply integral_congr_ae
+    apply ae_of_all μ
+    intro a
```
Comment (RemyDegenne) [inline Mathlib/Probability/Moments.lean:608]: An example of a way you can make your code shorter:
```suggestion
    refine integral_congr_ae (ae_of_all μ fun a ↦ ?_)
```

File: Mathlib/Probability/Hoeffding.lean [hunk 14]
```diff
@@ -0,0 +1,182 @@
...
+  have hf : f 0 = 0 := by simp only
+    [zero_mul, exp_zero, integral_const, measure_univ, ENNReal.one_toReal,
+    smul_eq_mul, mul_one, log_one, f]
+  set f' : ℝ → ℝ := fun t ↦ (μ.tilted (fun ω ↦ t * X ω))[X]
+  have hf' : f' 0 = 0 := by
+    dsimp only [f']
+    simp only [zero_mul, tilted_const', measure_univ, inv_one, one_smul]
+    exact h0
+  set f'' : ℝ → ℝ := fun t ↦ variance X (μ.tilted (fun ω ↦ t * X ω))
+  have q : ∀ x : ℝ, ∃ c ∈ (Set.Ioo 0 t), f t = f 0 + f' 0 * t + f'' c * t ^ 2 / 2 := by
```
Comment (RemyDegenne) [inline Mathlib/Probability/Hoeffding.lean:59]: Extract that as a lemma?

File: Mathlib/Probability/Hoeffding.lean [hunk 15]
```diff
@@ -0,0 +1,182 @@
...
+  case pos =>
+    exact hoeffding_nonneg μ t a b X h' hX h h0
+  case neg =>
+    simp only [not_le] at h'
+    suffices ∫ ω, rexp (- t * - X ω) ∂μ ≤
+      rexp ((- t) ^ 2 * ((- a) - (- b)) ^ 2 / 8) from by
+      simp only [mul_neg, neg_mul, neg_neg, even_two, Even.neg_pow, sub_neg_eq_add] at this
+      rw [<- (by ring : (-a + b) = b - a)]
+      exact this
+    apply hoeffding_nonneg _ _ _ _ _ (by linarith : 0 ≤ - t) (AEMeasurable.neg hX)
```
Comment (RemyDegenne) [inline Mathlib/Probability/Hoeffding.lean:175]: An example of using dot notation:
```suggestion
    apply hoeffding_nonneg _ _ _ _ _ (by linarith : 0 ≤ - t) hX.neg
```

File: Mathlib/Probability/Moments.lean [hunk 16]
```diff
@@ -333,4 +344,363 @@ theorem measure_le_le_exp_cgf [IsFiniteMeasure μ] (ε : ℝ) (ht : t ≤ 0)
...
+
+lemma tilt_var_bound [IsProbabilityMeasure μ] (a b t : ℝ) (X : Ω → ℝ)
+    (h : ∀ᵐ ω ∂μ, X ω ∈ Set.Icc a b)
+    (hX : AEMeasurable X μ) :
+    variance X (μ.tilted (fun ω ↦ t * X ω)) ≤ ((b - a) / 2) ^ 2 := by
+  have _ : IsProbabilityMeasure (μ.tilted fun ω ↦ t * X ω) :=
+    isProbabilityMeasure_tilted (integrable_expt_bound hX h)
+  exact variance_le_sq_of_bounded
+      ((tilted_absolutelyContinuous μ fun ω ↦ t * X ω) h)
+      (AEMeasurable.mono_ac hX (tilted_absolutelyContinuous μ fun ω ↦ t * X ω))
```
Comment (RemyDegenne) [inline Mathlib/Probability/Moments.lean:398]:
```suggestion
      (hX.mono_ac (tilted_absolutelyContinuous μ fun ω ↦ t * X ω))
```

File: Mathlib/Probability/Moments.lean [hunk 17]
```diff
@@ -333,4 +344,363 @@ theorem measure_le_le_exp_cgf [IsFiniteMeasure μ] (ε : ℝ) (ht : t ≤ 0)
...
+    have q0 : ‖rexp (t * X ω)‖ ≤ ‖rexp (|t| * c)‖ := by
+      simp only [norm_eq_abs, abs_exp, exp_le_exp]
+      rw [← (abs_eq_self.mpr (le_trans' (le_max_left |a| ‖b‖) (abs_nonneg a)) : |c| = c)]
+      calc
+      _ ≤ |t * X ω| := le_abs_self (t * X ω)
+      _ = |t| * |X ω| := abs_mul t (X ω)
+      _ ≤ |t| * |c| :=
+        mul_le_mul_of_nonneg_left (le_trans' (le_abs_self (max ‖a‖ ‖b‖))
+          (abs_le_max_abs_abs ha hb) : |X ω| ≤ |c|) (abs_nonneg t)
+    exact q0
```
Comment (RemyDegenne) [inline Mathlib/Probability/Moments.lean:583]: The code is shorter while being just as readable if you don't split `h` into `ha` and `hb`. Given that you split `h` like that everywhere, I guess that it's to reuse the proofs that you had when the two hypotheses were separated in the statements. Please adapt the code to the new hypothesis shape.
And I suppose that you unfold `mgf` and `cgf` for the same reason: please don't, where possible. It's better to not unfold the definition unless needed, as it allows us to spot where a generic property of those definitions should be used instead of an ad-hoc computation.

```suggestion
  apply MeasureTheory.Integrable.bdd_mul'
    (integrable_bounded a b X hX h) (aemeasurable_expt _ _ hX)
  · set c := max ‖a‖ ‖b‖
    filter_upwards [h] with ω h
    have q0 : ‖rexp (t * X ω)‖ ≤ ‖rexp (|t| * c)‖ := by
      simp only [norm_eq_abs, abs_exp, exp_le_exp]
      rw [← (abs_eq_self.mpr (le_trans' (le_max_left |a| ‖b‖) (abs_nonneg a)) : |c| = c)]
      calc
      _ ≤ |t * X ω| := le_abs_self (t * X ω)
      _ = |t| * |X ω| := abs_mul t (X ω)
      _ ≤ |t| * |c| :=
        mul_le_mul_of_nonneg_left (le_trans' (le_abs_self (max ‖a‖ ‖b‖))
          (abs_le_max_abs_abs h.1 h.2) : |X ω| ≤ |c|) (abs_nonneg t)
    exact q0
```

File: Mathlib/Probability/Moments.lean [hunk 18]
```diff
@@ -333,4 +344,363 @@ theorem measure_le_le_exp_cgf [IsFiniteMeasure μ] (ε : ℝ) (ht : t ≤ 0)
...
+      apply Measurable.comp_aemeasurable' _ hX
+      apply measurable_norm
+    · filter_upwards [ha, hb] with ω ha hb
+      have p0 : ‖rexp ((2 * |t| + 1) * |X ω|)‖ ≤ ‖rexp ((2 * |t| + 1) * c)‖ := by
+        simp only [norm_eq_abs, abs_exp, exp_le_exp]
+        rw [← (abs_eq_self.mpr (le_trans' (le_max_left |a| ‖b‖) (abs_nonneg a)) : |c| = c)]
+        exact mul_le_mul_of_nonneg_left
+          (le_trans' (le_abs_self (max ‖a‖ ‖b‖)) (abs_le_max_abs_abs ha hb))
+          (by linarith [abs_nonneg t] : 0 ≤ 2 * |t| + 1)
+      exact p0
```
Comment (RemyDegenne) [inline Mathlib/Probability/Moments.lean:555]: If you have a `have p0` followed by `exact p0`, then you could just prove it directly.

```suggestion
      change ‖rexp ((2 * |t| + 1) * |X ω|)‖ ≤ ‖rexp ((2 * |t| + 1) * c)‖  -- perhaps not needed
      simp only [norm_eq_abs, abs_exp, exp_le_exp]
      rw [← (abs_eq_self.mpr (le_trans' (le_max_left |a| ‖b‖) (abs_nonneg a)) : |c| = c)]
      exact mul_le_mul_of_nonneg_left
        (le_trans' (le_abs_self (max ‖a‖ ‖b‖)) (abs_le_max_abs_abs ha hb))
        (by linarith [abs_nonneg t] : 0 ≤ 2 * |t| + 1)
```

**Review by RemyDegenne — COMMENTED** [review]
Here is a next batch of comments.

**Comment by tukamilano** [comment]
Thank you for writing so many comments. It will take some time to fix everything, so please wait a moment

File: Mathlib/Probability/Moments.lean (hunk 10 above)
Comment (tukamilano) [reply Mathlib/Probability/Moments.lean:422]: I'm trying to apply `hasDerivAt_integral_of_dominated_loc_of_deriv_le` (Derivative of Integral of Functions with Bounded Derivatives in a Neighborhood), and the conclusion of the statement is `Integrable (F' x₀) ∧ HasDerivAt (fun n => ∫ (a : α), F n a ∂μ) (∫ (a : α), F' x₀ a ∂μ) x₀`, so I had to arrange it in that way.

File: Mathlib/Probability/Moments.lean (hunk 9 above)
Comment (tukamilano) [reply Mathlib/Probability/Moments.lean]: h is only used to satisfy the regular conditions of dominated convergence theorem, so If we include the regularity condition directly in the assumptions, it would result in a stronger lemma.

Comment (RemyDegenne) [reply Mathlib/Probability/Moments.lean]: I wrote the PR #20151 to prove more generally that the mgf is analytic on the interior of its domain (without any bounded support assumption), and give the values of its derivatives. See `hasDerivAt_mgf` in that PR.
I suggest we wait for my PR to be merged and then use it here.

Comment (tukamilano) [reply Mathlib/Probability/Moments.lean]: Makes sense! Waiting for #20151 to be merged would be the better approach here

**Comment by RemyDegenne** [comment]
I merge master but did not make other changes to reuse the newly merged results from #20151 .
If you don't mind I'll make another commit with those changes later today.

File: Mathlib/Probability/Hoeffding.lean (hunk 14 above)
Comment (tukamilano) [reply Mathlib/Probability/Hoeffding.lean:121]: I’m not sure how to extract this part as a lemma when using 'f' to show the proof briefly.

Comment (RemyDegenne) [reply Mathlib/Probability/Hoeffding.lean:121]: This is just a particular case of Taylor's theorem, so should be true for any function under enough differentiability conditions. I guess you use the definition of `f` only to show those conditions.

Actually Mathlib already has various statements for Taylor's theorem here: https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Calculus/Taylor.html . Perhaps one of them can help you golf this proof?

Also you should remove the `∀ x : ℝ`, as there is no `x` in the statement.

**Comment by YaelDillies** [comment]
Sorry if this was already discussed above, but can you generalise from bounded random variables to subgaussian random variables?

File: Mathlib/Probability/Hoeffding.lean [hunk 19]
```diff
@@ -0,0 +1,233 @@
...
+import Mathlib.Probability.Variance
+import Mathlib.Analysis.Calculus.ParametricIntegral
+import Mathlib.Analysis.SpecialFunctions.Log.Deriv
+import Mathlib.MeasureTheory.Measure.Tilted
+import Mathlib.Analysis.Calculus.Taylor
+
+/-!
+# Hoeffding's lemma
+
+This file states Hoeffding's lemma.
```
Comment (YaelDillies) [inline Mathlib/Probability/Hoeffding.lean:18]:
```suggestion
This file states Hoeffding's lemma, which says that bounded random variables are subgaussian.
```

File: Mathlib/Probability/Hoeffding.lean [hunk 20]
```diff
@@ -0,0 +1,233 @@
...
+
+## Main results
+
+* `ProbabilityTheory.hoeffding`: Hoeffding's Lemma states that for a random variable `X` with
+  `E[X] = 0` (zero mean) and `a ≤ X ≤ b` almost surely, the inequality
+  `mgf X μ t ≤ exp (t^2 * (b - a)^2 / 8)` holds almost surely for all `t ∈ ℝ`.
```
Comment (YaelDillies) [inline Mathlib/Probability/Hoeffding.lean:24]: It would be nice to prove the more general theorem that a bounded random variable (with no mean zero assumption) is subgaussian (rather than having subgaussian MGF)

File: Mathlib/Probability/Hoeffding.lean [hunk 21]
```diff
@@ -0,0 +1,233 @@
...
+
+open MeasureTheory ProbabilityTheory Real
+
+namespace ProbabilityTheory
+
+universe u
+
+variable {Ω : Type u} [MeasurableSpace Ω] (μ : Measure Ω := by volume_tac)
+
+lemma integrable_exp_of_ae_le_const [IsFiniteMeasure μ] {X : Ω → ℝ} (b : ℝ)
```
Comment (YaelDillies) [inline Mathlib/Probability/Hoeffding.lean:39]:
```suggestion
lemma mem_integrableExpSet_of_ae_le_const [IsFiniteMeasure μ] {X : Ω → ℝ} (b : ℝ)
```
same below

File: Mathlib/Probability/Hoeffding.lean [hunk 22]
```diff
@@ -0,0 +1,233 @@
...
+  intro t ht
+  dsimp [integrableExpSet]
+  rw [(by funext ω; simp only [mul_neg, neg_mul, neg_neg]:
+    (fun ω ↦ rexp (t * X ω)) = (fun ω ↦ rexp (-t * -X ω)))]
+  apply integrable_exp_of_ae_le_const
+  · exact AEMeasurable.neg hX
+  · filter_upwards [hb] with ω hb using neg_le_neg_iff.mpr hb
+  · exact neg_nonneg.mpr ht
+
+lemma integrable_exp_of_ae_mem_Icc [IsFiniteMeasure μ] {X : Ω → ℝ} (a b : ℝ)
```
Comment (YaelDillies) [inline Mathlib/Probability/Hoeffding.lean:58]:
```suggestion
lemma integrableExpSet_of_ae_mem_Icc [IsFiniteMeasure μ] {X : Ω → ℝ} (a b : ℝ)
```

File: Mathlib/Probability/Hoeffding.lean [hunk 23]
```diff
@@ -0,0 +1,233 @@
...
+  intro t
+  by_cases sign_t : 0 ≤ t
+  case pos =>
+    apply integrable_exp_of_ae_le_const _ _ hX
+      (by filter_upwards [hb] with ω hb using hb.2) _ sign_t
+  case neg =>
+    apply integrable_exp_of_ae_const_le _ _  hX
+      (by filter_upwards [hb] with ω hb using hb.1) _ (le_of_not_ge sign_t)
+
+theorem integrable_exp_set_interior_of_ae_mem_Icc  [IsFiniteMeasure μ] {X : Ω → ℝ} (t a b : ℝ)
```
Comment (YaelDillies) [inline Mathlib/Probability/Hoeffding.lean:71]:
```suggestion
theorem mem_interior_integrableExpSet_of_ae_mem_Icc [IsFiniteMeasure μ] {X : Ω → ℝ} (t a b : ℝ)
```

File: Mathlib/Probability/Hoeffding.lean [hunk 24]
```diff
@@ -0,0 +1,233 @@
...
+    (hX : AEMeasurable X μ)
+    (h : ∀ᵐ (ω : Ω) ∂μ, X ω ∈ Set.Icc a b) : t ∈ interior (integrableExpSet X μ) := by
+  rw [integrable_exp_of_ae_mem_Icc μ a b hX h]
+  apply mem_interior_iff_mem_nhds.mpr Filter.univ_mem
+
+theorem cgf_deriv_eq_tilted_measure_expectation {X : Ω → ℝ} (t : ℝ)
```
Comment (YaelDillies) [inline Mathlib/Probability/Hoeffding.lean:77]:
```suggestion
theorem deriv_cgf_eq_integral_tilted {X : Ω → ℝ} (t : ℝ)
```

File: Mathlib/Probability/Hoeffding.lean [hunk 25]
```diff
@@ -0,0 +1,233 @@
...
+    (h0 : t ∈ interior (integrableExpSet X μ)) :
+    deriv (cgf X μ) t = (μ.tilted fun ω ↦ t * X ω)[X] := by
+  rw [deriv_cgf]
+  · rw [MeasureTheory.integral_tilted, ← integral_div]
+    simp only [smul_eq_mul, mgf]; congr with ω; ring
+  · exact h0
+
+theorem cgf_iterated_deriv_two_eq_tilted_measure_variance [IsProbabilityMeasure μ]
+    {X : Ω → ℝ} (t a b : ℝ) (hX : AEMeasurable X μ) (h : ∀ᵐ (ω : Ω) ∂μ, X ω ∈ Set.Icc a b):
+    iteratedDeriv 2 (cgf X μ) t = Var[X; μ.tilted fun ω ↦ t * X ω] := by
```
Comment (YaelDillies) [inline Mathlib/Probability/Hoeffding.lean:87]:
```suggestion
    iteratedDeriv 2 (cgf X μ) t = Var[X ; μ.tilted fun ω ↦ t * X ω] := by
```
and everywhere else

File: Mathlib/Probability/Hoeffding.lean [hunk 26]
```diff
@@ -0,0 +1,233 @@
...
+        rw [<- (Set.univ_inter (Set.Icc 0 t))]
+        symm
+        rw [iteratedFDerivWithin_inter]
+        exact Icc_mem_nhds_iff.mpr q0
+        exact rfl
+      rw [q1, q2] at qc'
+      linarith
+  rw [hf, hf'] at q
+  simp only [zero_mul, add_zero, zero_add, forall_const] at q
+  obtain ⟨c, ⟨_, cq'⟩⟩ := q
```
Comment (YaelDillies) [inline Mathlib/Probability/Hoeffding.lean:168]: Pointy brackets right-associate:
```suggestion
  obtain ⟨c, _, cq'⟩ := q
```

File: Mathlib/Probability/Hoeffding.lean [hunk 27]
```diff
@@ -0,0 +1,233 @@
...
+            ((tilted_absolutelyContinuous μ fun ω ↦ c * X ω) h)
+            (hX.mono_ac (tilted_absolutelyContinuous μ fun ω ↦ c * X ω))
+        · exact sq_nonneg t
+      · linarith
+    _ = t ^ 2 * (b - a) ^ 2 / 8 := by ring
+  exact s
+
+/-! ### Hoeffding's lemma restricted to t ≥ 0 -/
+
+theorem hoeffding_nonneg [IsProbabilityMeasure μ]
```
Comment (YaelDillies) [inline Mathlib/Probability/Hoeffding.lean:190]:
```suggestion
private theorem hoeffding_nonneg [IsProbabilityMeasure μ]
```
since it is superseded by the lemma below

File: Mathlib/Probability/Hoeffding.lean [hunk 28]
```diff
@@ -0,0 +1,233 @@
...
+    (lt_of_le_of_ne ht fun a ↦ w (id (Eq.symm a))) hX h h0
+
+/-! ### Hoeffding's lemma -/
+
+/-- Hoeffding's Lemma states that for a random variable `X` with `E[X] = 0` (zero mean) and
+ `a ≤ X ≤ b` almost surely, the inequality
+ `μ[exp (t * (X ω))] ≤ exp (t^2 * (b - a)^2 / 8)` holds almost surely for all `t ∈ ℝ`. -/
+theorem hoeffding [IsProbabilityMeasure μ] (t a b : ℝ) {X : Ω → ℝ} (hX : AEMeasurable X μ)
+    (h : ∀ᵐ ω ∂μ, X ω ∈ Set.Icc a b) (h0 : μ[X] = 0) :
+    mgf X μ t ≤ exp (t^2 * (b - a)^2 / 8) := by
```
Comment (YaelDillies) [inline Mathlib/Probability/Hoeffding.lean:215]: Can you state this using the new `HasSubgaussianMGF` predicate?

**Review by YaelDillies — COMMENTED** [review]
Very exciting!

File: Mathlib/Probability/Hoeffding.lean (hunk 20 above)
Comment (RemyDegenne) [reply Mathlib/Probability/Hoeffding.lean:24]: To "remove" the mean zero assumption it's possible to write an immediate corollary of the current result: if `X` is bounded in an interval then `X - E[X]` is also bounded in an interval (of same length as `X`), so has sub-Gaussian moment generating function.

If you are thinking about proving one of the other properties called sub-Gaussian, then please tell us which one! And that's probably for another PR to avoid scope creep on this one.

File: Mathlib/Probability/Hoeffding.lean (hunk 21 above)
Comment (RemyDegenne) [reply Mathlib/Probability/Hoeffding.lean:39]: This lemma is the same as `integrable_exp_mul_of_le`, which is in Mathlib, in Moments/Basic.
In this PR you delete `integrable_exp_mul_of_le` and add this new `integrable_exp_of_ae_le_const` here. I don't see why. Could you revert that?

File: Mathlib/Probability/Hoeffding.lean (hunk 24 above)
Comment (RemyDegenne) [reply Mathlib/Probability/Hoeffding.lean:77]: This lemma and the next one are now in Mathlib, in `Mathlib.Probability.Moments.Tilted` (in a more general version for the one on the variance, without any bounded assumption).

File: Mathlib/Probability/Hoeffding.lean [hunk 29]
```diff
@@ -0,0 +1,233 @@
...
+  let f' := deriv (cgf X μ)
+  let f'' := iteratedDeriv 2 (cgf X μ)
+  have hf : f 0 = 0 := cgf_zero
+  have hf' : f' 0 = 0 := by
+    dsimp [f']
+    rw [deriv_cgf_zero]
+    · simp only [measure_univ, ENNReal.one_toReal, div_one, f']
+      exact h0
+    · exact integrable_exp_set_interior_of_ae_mem_Icc μ 0 a b hX h
+  have q : ∃ c ∈ (Set.Ioo 0 t), f t = f 0 + f' 0 * t + f'' c * t ^ 2 / 2 := by
```
Comment (RemyDegenne) [inline Mathlib/Probability/Hoeffding.lean:122]: As I wrote in a previous comment, I still think that you should extract a lemma here. Please write a lemma about a generic real function f with derivatives f' and f''. This is a very useful particular case of Taylor's theorem and merits it's own lemma, especially since it's apparently not so easily derived from the more general versions in Mathlib.

File: Mathlib/Probability/Moments/Basic.lean [hunk 30]
```diff
@@ -29,8 +29,7 @@ import Mathlib.Probability.IdentDistrib
   Chernoff bound on the upper (resp. lower) tail of a random variable. For `t` nonnegative such that
   the cgf exists, `ℙ(ε ≤ X) ≤ exp(- t*ε + cgf X ℙ t)`. See also
   `ProbabilityTheory.measure_ge_le_exp_mul_mgf` and
-  `ProbabilityTheory.measure_le_le_exp_mul_mgf` for versions of these results using `mgf` instead
-  of `cgf`.
+  `ProbabilityTheory.measure_le_le_exp_mul_mgf` for versions of these results using `mgf` instead.
```
Comment (RemyDegenne) [inline Mathlib/Probability/Moments/Basic.lean:32]: Can you revert that change?

**Comment by tukamilano** [comment]
Thank you for these comments. I'll finish reflecting reviews in a few days.

File: Mathlib/Probability/Hoeffding.lean (hunk 25 above)
Comment (tukamilano) [reply Mathlib/Probability/Hoeffding.lean]: According to the linter, [X; μ.tilted fun ω ↦ t * X ω] would be more appropriate
https://github.com/leanprover-community/mathlib4/pull/18091#discussion_r1993018275

File: Mathlib/Probability/Hoeffding.lean [hunk 31]
```diff
@@ -0,0 +1,236 @@
...
+Authors: Kei Tsukamoto, Kazumi Kasaura, Yuma Mizuno, Naoto Onda, Sho Sonoda
+-/
+
+import Mathlib.Probability.Moments.Basic
+import Mathlib.Probability.Moments.MGFAnalytic
+import Mathlib.Probability.Variance
+import Mathlib.Analysis.Calculus.ParametricIntegral
+import Mathlib.Analysis.SpecialFunctions.Log.Deriv
+import Mathlib.MeasureTheory.Measure.Tilted
+import Mathlib.Analysis.Calculus.Taylor
```
Comment (YaelDillies) [inline Mathlib/Probability/Hoeffding.lean:13]: Can you please replace this by the output of `#min_imports`?

File: Mathlib/Probability/Hoeffding.lean (hunk 21 above)
Comment (tukamilano) [reply Mathlib/Probability/Hoeffding.lean:39]: I deleted the lemma because integrableExpSet has not yet been defined in Moments/Basic.

However, moving these lemmas to Moments/IntegrableExpMul might be better.

File: Mathlib/Probability/Hoeffding.lean (hunk 25 above)
Comment (YaelDillies) [reply Mathlib/Probability/Hoeffding.lean:87]: Which linter?

**Comment by YaelDillies** [comment]
Hoeffding's lemma was merged in #26744. Thank you for the PR regardless and feel free to open further PRs from your project!
